US08217192B2
In an atmosphere of nitrogen, the 2,6,8-decatrienic acid toluene solution obtained in the above and DMF (3.7 g, 0.05 mol) were added to a 100 ml capacity flask, followed by cooling to 5° C. Thionyl chloride (11.9 g, 0.10 mol) was added dropwise to this and stirring was carried out at 5° C. for 0.5 hour to obtain a toluene solution of 2,6,8-decatrienoic acid chloride.

reactant | 2,6,8-decatrienic acid toluene | C1(=CC=CC=C1)C.C(C=CCCC=CC=CC)(=O)O
reactant | DMF | 0.05 mol, 3.7 g | CN(C)C=O | C3H7NO
reactant | Thionyl chloride | 0.10 mol, 11.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6,8-decatrienoic acid chloride | C(C=CCCC=CC=CC)(=O)Cl | C10H13ClO
